US07732448B2
0.2 g of 4-chloro-5-fluoro-6-(2-pentynyloxy)pyrimidine and 0.29 g of 3-methylpiperidine were mixed and left for 3 hours at room temperature. The reaction mixture was subjected to silica gel column chromatography to obtain 0.23 g of 5-fluoro-4-(3-methylpiperidino)-6-(2-pentynyloxy)pyrimidine (hereinafter, referred to as Compound (10)).

reactant | 4-chloro-5-fluoro-6-(2-pentynyloxy)pyrimidine | 0.2 g | ClC1=NC=NC(=C1F)OCC#CCC | C9H8ClFN2O
reactant | 3-methylpiperidine | 0.29 g | CC1CNCCC1 | C6H13N
product | 5-fluoro-4-(3-methylpiperidino)-6-(2-pentynyloxy)pyrimidine | 0.23 g | FC=1C(=NC=NC1OCC#CCC)N1CC(CCC1)C | C15H20FN3O
